US04221730
B. N-[Dichlorophosphinyl]-3-(4-nitrobenzenesulfonylamino)benzamide
A suspension of 32.1 g (0.1 m) of 3-[[(4-nitrophenyl)sulfonyl]-amino]-benzamide and 208 g (0.1 m) of phosphorous pentachloride in a mixture of 300 ml of carbon tetrachloride and 100 ml of nitromethane was stirred and heated for 90 min. The resulting solution was cooled to 20° and 4.7 g (0.1 m) of 97% formic acid added. The reaction was stirred overnight, then the product collected by filtration, washed with carbon tetrachloride and air-dried to give 36.7 g, melts 133°-134°, solidifies 138°, melts 188°-193°.

reactant | 3-[[(4-nitrophenyl)sulfonyl]-amino]-benzamide | 32.1 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)NC=1C=C(C(=O)N)C=CC1 | C13H11N3O5S
reactant | phosphorous pentachloride | 208 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | formic acid | 4.7 g | C(=O)O | CH2O2
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
product | N-[Dichlorophosphinyl]-3-(4-nitrobenzenesulfonylamino)benzamide | ClP(=O)(NC(C1=CC(=CC=C1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)Cl | C13H10Cl2N3O6PS
